US06887889B2
[4-(3′-Cyano-biphenyl-4-yl)-1-cyclopropylmethyl-piperidin-4-ylmethyl]-carbamic acid isobutyl ester
To a flask containing [1-cyclopropylmethyl-4-(4-iodo-phenyl)-piperidin-4-ylmethyl]-carbamic acid isobutyl ester (0.061 g, 0.13 mmol) was added Pd(PPh3)4 (0.015 g, 0.013 mmol, 10 mol %), 3-cyanophenylboronic acid (0.03 g, 0.2 mmol, 1.5 eq.) and Na2CO3 (0.212 g, 2 mmol). The mixture was suspended in toluene (3 mL), EtOH (1.5 mL) and H2O (1.0 mL) and heated to 80° C. for 18 h. The reaction mixture was cooled to room temperature and partitioned between EtOAc (10 mL) and saturated Na2CO3 (10 mL). The organic layer was washed with saturated Na2CO3 (3×10 mL) and saturated brine (2×10 mL), dried over anhydrous sodium sulfate, filtered and concentrated to give the crude product. This was purified by HPLC to give the title compound [4-(3′-cyano-biphenyl-4-yl)-1-cyclopropylmethyl-piperidin-4-ylmethyl]-carbamic acid isobutyl ester as a brown solid (0.014 g, 24%). MS (ESI): 446.3/447.3 (M+1).

reactant | [1-cyclopropylmethyl-4-(4-iodo-phenyl)-piperidin-4-ylmethyl]-carbamic acid isobutyl ester | 0.13 mmol, 0.061 g | C(C(C)C)OC(NCC1(CCN(CC1)CC1CC1)C1=CC=C(C=C1)I)=O | C21H31IN2O2
reactant | 3-cyanophenylboronic acid | 0.2 mmol, 0.03 g, 1.5 eq. | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
reactant | Na2CO3 | 2 mmol, 0.212 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | EtOH | 1.5 mL | CCO | C2H6O
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.013 mmol, 0.015 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | H2O | 1.0 mL | O | H2O
product | [4-(3′-cyano-biphenyl-4-yl)-1-cyclopropylmethyl-piperidin-4-ylmethyl]-carbamic acid isobutyl ester | 0.014 g, 24% | C(C(C)C)OC(NCC1(CCN(CC1)CC1CC1)C1=CC=C(C=C1)C1=CC(=CC=C1)C#N)=O | C28H35N3O2
